US09290496B2
Step 1: Preparation of 2,6-dichloro-N-cyclobutyl-5-nitropyrimidin-4-amine
Cyclobutanamine (0.485 mL, 5.68 mmol) in iPrOH (20 mL) was added to a solution of 2,4,6-trichloro-5-nitropyrimidine (1.29 g, 5.65 mmol) in iPrOH (40 mL) at −78° C. dropwise via addition funnel. After complete addition, the mixture was allowed to warm to rt over 30 min, then DIEA (0.940 mL, 5.66 mmol) was added and the mixture stirred at rt for 10 min. The solvent was removed under reduced pressure and dried to give the title compound as a pale yellow oil which was used without purification.

reactant | Cyclobutanamine | 5.68 mmol, 0.485 mL | C1(CCC1)N | C4H9N
reactant | 2,4,6-trichloro-5-nitropyrimidine | 5.65 mmol, 1.29 g | ClC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C4Cl3N3O2
reactant | DIEA | 5.66 mmol, 0.940 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | iPrOH | 20 mL | CC(C)O | C3H8O
solvent | iPrOH | 40 mL | CC(C)O | C3H8O
product | 2,6-dichloro-N-cyclobutyl-5-nitropyrimidin-4-amine | ClC1=NC(=C(C(=N1)NC1CCC1)[N+](=O)[O-])Cl | C8H8Cl2N4O2
